US08039450B2
6-Chloro-2-cyclopentyloxy-nicotinamide (2)
To a solution of cyclopentanol (1.42 mL, 15.70 mmol) in DMF (5 mL) at 0° C. was added sodium hydride (95% in mineral oil, 0.39 g, 15.70 mmol) in portions and stirred for 1 h at room temperature. This mixture was slowly added to a solution of 2,6-dichloro-nicotinamide (2.0 g, 10.47 mmol) in DMF (10 mL) at 0° C. The reaction mixture was stirred at room temperature overnight. DMF was removed under reduced pressure, and the resulting mixture was diluted with EtOAc (100 mL), washed with water (2×25 mL) and brine (2×25 mL) solution, dried over anhyd. Na2SO4, filtered, and concentrated to give yellow oil, which was purified by flash chromatography on silica gel using 10-25% EtOAc/hexanes as eluent to yield the title compound (1.94 g, 51%) as a transparent oil. 1H NMR (400 MHz, CDCl3) δ 8.44 (d, J=7.8 Hz, 1H), 7.65 (br. s., 1H), 7.03 (d, J=8.2 Hz, 1H), 5.74 (br. s., 1H), 5.70-5.57 (m, 1H), 2.25-1.95 (m, 2H), 1.90-1.66 (m, 6H).

reactant | cyclopentanol | 15.70 mmol, 1.42 mL | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 15.70 mmol, 0.39 g | [H-].[Na+]
reactant | 2,6-dichloro-nicotinamide | 10.47 mmol, 2.0 g | ClC1=C(C(=O)N)C=CC(=N1)Cl | C6H4Cl2N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2-cyclopentyloxy-nicotinamide | 1.94 g, 51% | ClC1=NC(=C(C(=O)N)C=C1)OC1CCCC1 | C11H13ClN2O2
